US06228872B1
3-(3-Pyridyl)propylammonium p-toluenesulfonate
A stirred solution of 3-(3-pyridyl)propanol (3.5 mL, 27.12 mmoles) in methylene chloride (15 mL) at 0° C. was treated with p-toluenesulfonyl chloride (6.7219 g, 1.3 equiv.) and diisopropylethylamine (6.14 mL, 1.3 equiv.). After 10 minutes, the mixture was warmed to room temperature. After a further 4 hours, the solvent was removed under reduced pressure and the residue partitioned between ethyl acetate and water. The organic phase was washed with brine, dried over sodium sulfate and evaporated. the residue was chromatographed on silica, eluting with ethyl acetate, to give a thick, pale-yellow oil which was immediately dissolved in saturated ammonialmethanol (165 mL). This was left to stand at room temperature for 5 days at which time the solvent was removed under reduced pressure. The residue was dried under high vacuum and then dissolved as far as possible in ether (150 mL). The resulting solid product was collected by filtration, washed with ether, and dried in vacuo (6.3051 g, 76%).

reactant | 3-(3-pyridyl)propanol | 27.12 mmoles, 3.5 mL | N1=CC(=CC=C1)CCCO | C8H11NO
reactant | p-toluenesulfonyl chloride | 6.7219 g, 1.3 equiv. | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | diisopropylethylamine | 6.14 mL, 1.3 equiv. | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | 3-(3-Pyridyl)propylammonium p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.N1=CC(=CC=C1)CCC[NH3+] | InChI=1S/C8H12N2.C7H8O3S/c9-5-1-3-8-4-2-6-10-7-8;1-6-2-4-7(5-3-6)11(8,9)10/h2,4,6-7H,1,3,5,9H2;2-5H,1H3,(H,8,9,10)
